US06451816B1
N-[3-(1-Benzylpiperidine-4-yloxy)-propyl]-3-(pyridin-3-yl)-acrylamide (Substance 55)
2.4 g (16.2 mmol) 3-(3-pyridyl)-acrylic acid and 2.3 g (16.2 mmol) TEA were suspended in 50 ml abs. tolueneand a solution of 1.5 ml (15.5 mmol) chloroformic ethyl ester in 20 ml abs. tolueneis added dropwise under moisture exclusion and gentle cooling. This yellow suspension is stirred two hours at RT and then a solution of 3.5 g (14.1 mmol) 3-(1-benzylpiperidine-4-yloxy)-propylamine in 20 ml abs. tolueneis added dropwise. The mixture is stirred at RT and subsequently extracted by shaking in the heat three times with 10 ml water, 2M sodium hydroxide solution and again with water, respectively. The organic phase is concentrated under vacuum and the orange colored, oily residue is chromatographically purified twice over silica gel with CHCl3/CH3OH/NH4OH (90/9/1 and 95/5/0 to 90/10/0) and crystallized twice from 10 ml acetic acid ethyl ester. Colorless crystals with a MP of 100-102° C. were recovered; yield: 1.9 g (35%).

reactant | 3-(3-pyridyl)-acrylic acid | 16.2 mmol, 2.4 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | chloroformic ethyl ester | 15.5 mmol, 1.5 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | 3-(1-benzylpiperidine-4-yloxy)-propylamine | 14.1 mmol, 3.5 g | C(C1=CC=CC=C1)N1CCC(CC1)OCCCN | C15H24N2O
product | N-[3-(1-Benzylpiperidine-4-yloxy)-propyl]-3-(pyridin-3-yl)-acrylamide | C(C1=CC=CC=C1)N1CCC(CC1)OCCCNC(C=CC=1C=NC=CC1)=O | C23H29N3O2
